US05177089
4-(4-Pyridyl)benzaldehyde
A solution of 6.93 g of 4-bromobenzaldehyde dimethyl acetal in 40 ml of tetrahydrofuran was dropwise added to a mixture comprising 0.80 g of magnesium powder, a catalytic amount of iodine and 10 ml of tetrahydrofuran under stirring at a temperature in the bulk of 40° to 50° C. in a nitrogen atmosphere to prepare a Grignard reagent. This Grignard reagent was dropwise added to a solution of 4.46 g of 4-bromopyridine and 0.4 g of bis(1,3-diphenylphosphinopropane)nickel (II) chloride in 100 ml of tetrahydrofuran at a room temperature in a nitrogen atmosphere. The obtained mixture was refluxed for 4 hours and allowed to cool to a room temperature, followed by the addition of water. The obtained mixture was distilled to remove the tetrahydrofuran Ethyl acetate was added to the residue. The obtained mixture was extracted with dilute hydrochloric acid thrice. The extracts were combined, allowed to stand for a short time, made alkaline with concentrated aqueous ammonia and extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel column chromatography (solvent: chloroform/methanol) to obtain 3.28 g of the title compound as a pale yellow crystal (yield: 64%).

reactant | 4-bromobenzaldehyde dimethyl acetal | 6.93 g | COC(C1=CC=C(C=C1)Br)OC | C9H11BrO2
reactant | magnesium | 0.80 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-bromopyridine | 4.46 g | BrC1=CC=NC=C1 | C5H4BrN
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(4-Pyridyl)benzaldehyde | 3.28 g, yield: 64% | N1=CC=C(C=C1)C1=CC=C(C=O)C=C1 | C12H9NO
